US08183246B2
1-[Benzyl(methyl)amino]acetone
Put 12.118 g (100 mmol) N-methylbenzylamine with 16.584 g (120 mmol) potassium carbonate in 100 ml toluene. Add dropwise 11.103 g (120 mmol) chloroacetone and stir overnight under reflux. Then cool to RT, filter to remove the salt and concentrate by evaporation. Purify the residue by chromatography on silica gel (solvent: cyclohexane/ethyl acetate 8:2), obtaining 9.0 g (50.8% of theor.) of the target compound.

reactant | N-methylbenzylamine | 100 mmol, 12.118 g | CNCC1=CC=CC=C1 | C8H11N
reactant | potassium carbonate | 120 mmol, 16.584 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 120 mmol, 11.103 g | ClCC(C)=O | C3H5ClO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[Benzyl(methyl)amino]acetone | C(C1=CC=CC=C1)N(CC(=O)C)C | C11H15NO
